Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
monitoring s/p uterine artery embolization
 
Major Surgical or Invasive Procedure:
Uterine Artery Embolization 

 
History of Present Illness:
Patient ___ year old female with hx of fibroids s/p prior 
myomectomy, OSA who is being admitted post-uterine artery 
embolization for symptomatic fibroids. Her prior symptoms 
include heavy menses, abdominal pain.  She was feeling well on 
arrival to the ___ suite. She is now complaining of crampy 
abdominal pain the bilateral lower quadrants. The pain is rated 
as ___ without pain medications and ___ with dilaudid PCA. 
She is otherwise without complaint. Last period ~3 weeks ago. 
 
ROS: 
(+) per HPI, chronic dark stools ___ iron supplementation
(-) denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, hematochezia, dysuria, hematuria. 
 
 
Past Medical History:
Anemia 
Fibroids- s/p myomectomy
Obstructive sleep apnea
 
Social History:
___
Family History:
Diabetes mellitus on both sides of her family
 
Physical Exam:
Admission: 
VS - Temp 99.1 F, BP 148/80, HR 61, R 20, O2-sat 96% RA  
GENERAL - NAD, comfortable, appropriate  
HEENT - NC/AT, MMM, OP clear  
NECK - supple, JVD
HEART - RRR, nl S1-S2, no MRG
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use  
ABDOMEN - NABS, soft/ND, mild TTP and pressure in bilateral 
groin areas and lower abdomen, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - Right angio site with bandage covering, minimal 
blood, no bruit or hematoma. WWP, no c/c/e, 2+ peripheral pulses 
(radials, DPs)  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout 

Discharge: 
VS - Temp 99.1 F, P: 80, BP: 132/68, RR: 20, 94% on RA 
GENERAL - NAD, comfortable, appropriate  
HEENT - NC/AT, MMM, OP clear  
HEART - RRR, nl S1-S2, no MRG
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use  
ABDOMEN - NABS, soft/ND, mild TTP and pressure in bilateral 
groin areas and lower abdomen, no masses or HSM, no 
rebound/guarding
GYN: Labia normal, minimal blood on pad   
EXTREMITIES - Right angio site with bandage covering, minimal 
blood, no bruit or hematoma. WWP, no c/c/e, 2+ peripheral pulses 
(radials, DPs)  
NEURO - awake, A&Ox3, no focal deficits 
 
Pertinent Results:
Labs: 
___ 05:20AM BLOOD WBC-9.7 RBC-4.22 Hgb-12.1 Hct-39.1 MCV-93 
MCH-28.7 MCHC-31.0 RDW-14.3 Plt ___
___ 05:20AM BLOOD Glucose-122* UreaN-10 Creat-0.7 Na-132* 
K-3.6 Cl-96 HCO3-25 AnGap-15
___ 07:30AM BLOOD UreaN-17 Creat-0.9
___ 05:20AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.9

Uterine Artery Embolization: ___
PROCEDURE AND FINDINGS: Informed consent was obtained prior to 
the procedure, explaining the risks, benefits and alternatives. 
The patient was placed supine on the angiographic table. A 
pre-procedure timeout and huddle were carried out according to 
___ protocol. Skin of the right inguinal region was prepped 
and draped in the usual sterile fashion. 
  
The right common femoral artery was accessed using a 21-gauge 
micropuncture needle. The needle was exchanged for a 4 ___ 
micropuncture sheath over a 0.018 guidewire. Guidewire and inner 
catheter were removed and a 0.035 ___ guidewire was advanced 
through the micropuncture sheath into the abdominal aorta. The 4 
___ micropuncture sheath was exchanged for a 5 ___ 
___ sheath. A 5 ___ Omniflush catheter was then 
inserted into the infrarenal abdominal aorta. The tip of the 
catheter was positioned across the aortic bifurcation followed 
by advancement of a 0.035 Glidewire into the left common femoral 
artery. The Omniflush catheter was then exchanged for a 5 ___ 
pudendal catheter. 
  
The pudendal catheter loop was formed successfully over the 
iliac bifurcation followed by advancement of the catheter tip 
into the left uterine artery. A Renegade ___ microcatheter 
with a Transend wire was advanced through the 5 ___ pudendal 
catheter into the distal left uterine artery. Arteriography of 
the left uterine artery demonstrated globular blush 
corresponding to known uterine leiomyomata without evidence of 
filling of the left ovarian artery or arterial branches 
supplying the uterine cervix or vaginal vault. There was no 
evidence of arteriovenous shunting or early draining vein. No 
uterine-ovarian 
arterial communication was demonstrated. Embolization was 
carried out through the Renegade microcatheter at the position 
in the left uterine artery utilizing 500-700 micron Embospheres 
until near stasis was achieved. 
  
After conclusion of embolization of the left uterine artery, the 
microcatheter and Transend guidewire were withdrawn and the 
pudendal catheter was advanced into the infrarenal abdominal 
aorta and subsequently into the right internal iliac artery and 
right uterine artery. As on the contralateral side, a Renegade 
___ microcatheter and Transend guidewire were used to 
navigate to a more distal point of the right uterine artery 
beyond branches of the vaginal vault and uterine cervix. 
Arteriography performed at this position confirmed this and 
demonstrated no communication with the right ovarian artery as 
well 
as no evidence of arteriovenous shunting or early draining vein. 
Again, 
embolization with 500-700 micron Embosphere particles was 
performed to near stasis. Approximately a total of 7.5 ampules 
of 500-700 micron Embospheres were utilized for the procedure. 
  
Following completion of embolization, an abdominal aortogram 
demonstrated no detectable uterine blush and no notable ovarian 
artery collaterals supplying the leiomyomata. 
  
The endovascular sheath was removed and following hemostasis, a 
sterile 
dressing was applied. 
  
The patient tolerated the procedure well. There were no 
immediate 
post-procedure complications. 
  
IMPRESSION: Successful transarterial embolization of bilateral 
uterine 
arteries using approximately 6.5 ampules of 500-700 micron 
Embospheres. Final aortogram demonstrates complete angiographic 
resolution of the leiomyomatous blush with no evidence of 
uterine-ovarian arterial communication and no significant 
ovarian supply to the uterus. 

 
Brief Hospital Course:
Patient is a ___ year old female with PMH of symptomatic fibroids 
who was being admitted s/p uterine arterty embolization for 
observation. 
 
#. Fibroids s/p uterine artery embolization: Patient tolerated 
procedure well without complication. Pain was initially 
controlled on hydromorphone pca until 7 am post procedure. She 
was then started on oxycodone + tylenol for pain. There was no 
evidence of hematoma or bruit at groin site. She was instructed 
to follow-up with her gynecologist post-procedure and a 
follow-up appointment was made with her PCP. 

#. OSA: continued on home CPAP machine 

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Ferrous Sulfate 325 mg PO DAILY 
2. cod liver oil *NF* unknown  Oral daily 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1. cod liver oil *NF* 0 1 tab ORAL DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO BID 
5. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN pain  
RX *oxycodone-acetaminophen 5 mg-500 mg every 4 hours as needed 
for pain Disp #*20 Capsule Refills:*0 (Zero)
6. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg every 6 hours as needed for cramping Disp 
#*20 Tablet Refills:*0 (Zero)
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg twice a day Disp #*30 Capsule 
Refills:*0 (Zero)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fibroid Uterus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for uterine artery 
embolization as a treatment for your fibroids. You were 
monitored in the hospital overnight and given pain medications. 

The following changes were made to your medications: 
- Added Percocet (oxycodone- acetaminophen)- take 1 tablet every 
___ hours as needed for pain 
- Added ibuprofen- take as needed for pain/ cramping 
 
Followup Instructions:
___